US07091229B2
In a manner analogous to that of example 1(b), 7-bromo-heptanoic acid benzyloxyamide 0.46 g, 1.5 mmol) was reacted with 1,8-naphthalenesultam (0.3 g, 1.5 mmol) in the presence of potassium carbonate (0.2 g, 1.4 mmol) to give 7-(1,1-dioxo-2H-naphtho[1,8-cd]isothiazol-2-yl)-heptanoic acid benzyloxyamide as an amorphous solid (yield 0.4 g, 62%; purified by column chromatography using silica gel and ethyl acetate:heptane=1:1 as an eluent). MS (M+H+)=439.

reactant | 7-bromo-heptanoic acid benzyloxyamide | 1.5 mmol, 0.46 g | C(C1=CC=CC=C1)ONC(CCCCCCBr)=O | C14H20BrNO2
reactant | 1,8-naphthalenesultam | 1.5 mmol, 0.3 g | C1=CC2=C3C(=C1)NS(=O)(=O)C3=CC=C2 | C10H7NO2S
reactant | potassium carbonate | 1.4 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
product | 7-(1,1-dioxo-2H-naphtho[1,8-cd]isothiazol-2-yl)-heptanoic acid benzyloxyamide | C(C1=CC=CC=C1)ONC(CCCCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)=O | C24H26N2O4S
